US07601856B2
Potassium t-butoxide (19 g, 1600 mmol) was added in portions to a cooled (2° C.) solution of cycloheptanone oxime (19 g, 150 mmol) in DMF (150 mL). The cooled reaction mixture was stirred for 40 minutes and then 1-chloro-4-nitrobenzene (25 g, 160 mmol) in DMF (50 mL) was added over 5 minutes. The reaction mixture was stirred at ˜10° C. for 30 minutes and then allowed to warm to room temperature and stirred for an additional 2 hours, and then stood at ambient temperature for 16 hours. The reaction mixture poured into water (1600 mL) with stirring. The mixture was stirred for an additional 20 minutes and then allowed to stand at room temperature for 5 hours. The precipitate was collected by filtration and washed with water. Recrystallization of the crude material from hexane provided cycloheptanone O-(4-nitro-phenyl)-oxime (30 g). Cycloheptanone O-(4-nitro-phenyl)-oxime (12 g, 50 mmol) was dissolved in warm isopropanol (120 mL) and 12 N hydrochloric acid (17 mL) was added. The reaction mixture was heated to reflux for 4 hours and then cooled in an ice bath. The solid was collected by filtration, washed with water and cold isopropanol, and dried in an oven to give 2-nitro-7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan (7.8 g, 34 mmol). A mixture of 2-nitro-7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan (5.8 g, 25 mmol) and Raney nickel (-5.6 g wet weight) in ethanol (270 mL) was hydrogenated at 50 PSI on a Parr shaker overnight. The mixture was filtered through Celite® and the filtrate was concentrated. The crude solid was purified by flash column chromatography (gradient elution with 15-25% ethyl acetate-hexanes) to give 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine (4.6 g). Mp 98-99° C.

reactant | Potassium t-butoxide | 1600 mmol, 19 g | CC(C)([O-])C.[K+]
reactant | cycloheptanone oxime | 150 mmol, 19 g | C1(CCCCCC1)=NO | C7H13NO
reactant | 1-chloro-4-nitrobenzene | 160 mmol, 25 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | water | 1600 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | cycloheptanone O-(4-nitro-phenyl)-oxime | 30 g | [N+](=O)([O-])C1=CC=C(C=C1)ON=C1CCCCCC1 | C13H16N2O3
